US08044156B2
A monomer emulsion was prepared by adding with mixing agitation about 56 parts by weight of ethyl acrylate, about 37 parts by weight of DMAEMA, about two parts by weight of HEMA, about three parts by weight of BEM25, about two parts by weight of R208 and about 0.15 parts by weight of TEGDMA into a reactor containing about 350 parts by weight of water containing about seven parts by weight C897 nonionic surfactant and about 0.3 parts by weight of sodium lauryl sulfate (30%) anionic surfactant. The resulting mixture was agitated (about 200 rpm) at a temperature in the range of about 30 to about 40° C. under a nitrogen atmosphere until an emulsion was obtained A solution of about 0.15 parts by weight of sodium persulfate in about three parts by weight of water was then added to the monomer emulsion, with mixing agitation, to initiate the polymerization reaction. The temperature of the reaction mixture was maintained at a temperature in the range of about 60 to about 62° C. for about 2.5 hours after addition of the initiator. Additional quantities of initiator were added at about 0.5 hours and about 1.5 hours after the reaction was initiated (about 0.02 parts by weight of sodium persulfate in about 3.5 parts by weight of water for each additional quantity of initiator added).

reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
reactant | DMAEMA | CC(=C)C(=O)OCCN(C)C | C8H15NO2
reactant | HEMA | CC(=C)C(=O)OCCO | C6H10O3
reactant | TEGDMA | CC(=C)C(=O)OCCOCCOCCOC(=O)C(=C)C | C14H22O6
reactant | sodium lauryl sulfate | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
solvent | water | O | H2O
product | sodium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[Na+].[Na+] | InChI=1S/2Na.H2O8S2/c;;1-9(2,3)7-8-10(4,5)6/h;;(H,1,2,3)(H,4,5,6)/q2*+1;/p-2
